US09388189B2
(S)—N-(5-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (75 mg, 0.13 mmol) was dissolved in 1.9 mL N,N-dimethylformamide. N-(5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)methanesulfonamide (225 mg, 0.76 mmol) and sodium carbonate (86 mg, 0.81 mmol) were added and the mixture was submitted to three vacuum-argon cycles. Tetrakis(triphenylphosphine)palladium(0) (44 mg, 0.04 mmol) was added under argon conditions. The mixture was stirred at 130° C. during 1.5 h. The reaction was poured into a saturated ammonium chloride solution and extracted twice with ethyl acetate. The organics were combined and washed with water, brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to give 53 mg (45% yield, 73% purity) of the title compound.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.13 mmol, 75 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | N-(5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)methanesulfonamide | 0.76 mmol, 225 mg | CC1(OB(OC1(C)C)C=1C=C(C=NC1)NS(=O)(=O)C)C | C12H19BN2O4S
reactant | sodium carbonate | 0.81 mmol, 86 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 1.9 mL | CN(C=O)C | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 44 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)—N-(5-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide | 45% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C=1C=C(C=NC1)NS(=O)(=O)C)COCC[Si](C)(C)C | C33H39N9O4SSi
